US05434186
Preparation of 2-(Bromomethyl)-6-methoxyquinoline
A solution of 10 g (57.7 mmol) of 6-methoxy-2-methylquinoline and 30 drops of pyridine in 40 mL of N,N-dimethylformamide was stirred at 60° C. while a solution of 16.21 g (57.7 mmol) of tribromoacetaldehyde in 20 mL of N,N-dimethylformamide was added over 15 min. The reaction mixture was stirred for another 2 hr and then cooled and poured onto 600 mL of ice-water. Work-up with ethyl acetate was carried out in the usual manner. The crude product was purified by flash chromatography on 800 g of silica gel, eluting with hexane-ethyl acetate (4:1) afforded 4.45 g (30.6%) of the title compound as a violet solid. An analytical sample was obtained by recrystallization from ethanol to give colorless crystals, mp 103° C.

reactant | 6-methoxy-2-methylquinoline | 57.7 mmol, 10 g | COC=1C=C2C=CC(=NC2=CC1)C | C11H11NO
reactant | tribromoacetaldehyde | 57.7 mmol, 16.21 g | BrC(C=O)(Br)Br | C2HBr3O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | pyridine | 30 drops | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 2-(Bromomethyl)-6-methoxyquinoline | 4.45 g, 30.6% | BrCC1=NC2=CC=C(C=C2C=C1)OC | C11H10BrNO
